US08614239B2
Preparation of N-(4,5-Difluoro-6-(2-fluoro-4-iodophenylamino)benzo[d]oxazol-7-yl)-1-(2,3-dihydroxypropyl)cyclopropane-1-sulfonamide (1J-isomer 1 and (1J-isomer 2)
Following the procedure set forth in Example 1I, 1-allyl-cyclopropanesulfonic acid [4,5-difluoro-6-(2-fluoro-4-iodo-phenylamino)benzoxazol-7-yl]-amide (7 g, 0.0127 mol) in THF (150 mL) was reacted with N-methyl morpholine-N-oxide (2.23 g, 0.019 mol), osmium tetroxide (0.32 g, 0.00127 mol) and water (15 mL) to afford the crude product. Purification by column chromatography on silica gel (0-2.5% methanol in DCM), followed by separation of the optical isomers using chiral HPLC afforded 1 g of the product

reactant | 1-allyl-cyclopropanesulfonic acid [4,5-difluoro-6-(2-fluoro-4-iodo-phenylamino)benzoxazol-7-yl]-amide | 0.0127 mol, 7 g | FC1=C(C(=C(C2=C1N=CO2)NS(=O)(=O)C2(CC2)CC=C)NC2=C(C=C(C=C2)I)F)F | C19H15F3IN3O3S
reactant | N-methyl morpholine-N-oxide | 0.019 mol, 2.23 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 15 mL | O | H2O
reactant | THF | 150 mL | C1CCOC1 | C4H8O
catalyst | osmium tetroxide | 0.00127 mol, 0.32 g | [Os](=O)(=O)(=O)=O
product | N-(4,5-Difluoro-6-(2-fluoro-4-iodophenylamino)benzo[d]oxazol-7-yl)-1-(2,3-dihydroxypropyl)cyclopropane-1-sulfonamide | 1 g, 26.9% yield | FC1=C(C(=C(C2=C1N=CO2)NS(=O)(=O)C2(CC2)CC(CO)O)NC2=C(C=C(C=C2)I)F)F | C19H17F3IN3O5S
